US05438052
Triethylamine (1.35 g) (13.37 mmol) are added dropwise at 0° C. to a solution of 0.62 g (8.92 mmol) of hydroxylamine hydrochloride in 15 ml of absolute methanol. The mixture is stirred for 10 minutes and subsequently a solution of 1.0 g (4.46 mmol) of methyl 7-mercapto-5-methyl-s-triazolo[1,5-a]pyrimidine-2-carboxylate (known from EPOS 303,172) in 30 ml of absolute methanol is added dropwise. After stirring at room temperature for 3 days the beige suspension is made acid (pH 4) with 1N aqueous hydrochloric acid and suction filtered. The filter material is washed with water and diethyl ether and crystallized from methanol/dichloromethane. There are obtained 510 mg of N-hydroxy-7-mercapto-5-methyl-s-triazolo[1,5-a]pyrimidine-2-carboxamide as beige crystals of m.p. 213° C. (dec.).

reactant | Triethylamine | 13.37 mmol, 1.35 g | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 8.92 mmol, 0.62 g | Cl.NO
reactant | methyl 7-mercapto-5-methyl-s-triazolo[1,5-a]pyrimidine-2-carboxylate | 4.46 mmol, 1.0 g | SC1=CC(=NC=2N1N=C(N2)C(=O)OC)C | C8H8N4O2S
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
product | N-hydroxy-7-mercapto-5-methyl-s-triazolo[1,5-a]pyrimidine-2-carboxamide | 510 mg | ONC(=O)C1=NN2C(N=C(C=C2S)C)=N1 | C7H7N5O2S
